US09024027B2
Step 1: Preparation of methyl 2-(4-hydroxy-1,3-dioxoisoindolin-2-yl)acetate (65)
4-Hydroxyisobenzofuran-1,3-dione (600 mg, 3.66 mmol) and methyl 2-aminoacetate hydrochloride (505 mg, 4.02 mmol) were finely dispersed on Montmorillonite K10 (powder, Sigma-Aldrich) (1.2 g) and the solid mixture was reacted under microwave irradiation at 150° C. for 30 minutes. Montmorillonite was washed with MeOH and the solvent was evaporated under vacuum. The crude was purified by preparative HPLC (Method 1) recovering the title compound (160 mg, 0.680 mmol, 19% yield). MS/ESI+ 236.1 [MH]+.

reactant | 4-Hydroxyisobenzofuran-1,3-dione | 3.66 mmol, 600 mg | OC1=C2C(OC(C2=CC=C1)=O)=O | C8H4O4
reactant | methyl 2-aminoacetate hydrochloride | 4.02 mmol, 505 mg | Cl.NCC(=O)OC
product | methyl 2-(4-hydroxy-1,3-dioxoisoindolin-2-yl)acetate | 0.680 mmol, 160 mg, 19% yield | OC1=C2C(N(C(C2=CC=C1)=O)CC(=O)OC)=O | C11H9NO5
